US07659267B2
Methyl 2-amino-4-(aminocarbonyl)benzoate
Under ice cooling, 1-hydroxy-1H-benzotriazole ammonium salt (6.86 g, 45.1 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (8.64 g, 45.1 mmol) were added to DMF solution (40 mL) of 1-methyl 2-aminoterephthalate (8.0 g, 41.0 mmol). The mixture was stirred at the same temperature for 1.5 hours and at room temperature for 30 minutes. After ice water was added to the reaction mixture, the precipitated crystals were taken by filtration and washed with water and diethyl ether. The filtrate was neutralized with sodium hydrogencarbonate, which was extracted 4 times with a tetrahydrofuran-ethyl acetate mixture. The combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was crystallized from water-ethyl acetate to give the title compound (7.32 g, 92%).

reactant | 1-hydroxy-1H-benzotriazole ammonium salt | 45.1 mmol, 6.86 g | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 45.1 mmol, 8.64 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-methyl 2-aminoterephthalate | 41.0 mmol, 8.0 g | NC1=C(C(=O)OC)C=CC(=C1)C(=O)[O-]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | Methyl 2-amino-4-(aminocarbonyl)benzoate | 7.32 g, 92% | NC1=C(C(=O)OC)C=CC(=C1)C(=O)N | C9H10N2O3
